US08304419B2
2-{[3-(azidomethyl)-6-chloro-2-fluorophenyl]oxy}-6-chloro-4-pyridinecarbonitrile (0.402 g, 1.189 mmol) dissolved in THF (10 mL) was treated successively with triphenylphosphine (0.468 g, 1.783 mmol) and water (0.107 mL, 5.94 mmol) at 25° C. for 16 h with stirring. The reaction mixture was concentrated to dryness and purified on 40 g silica gel eluted successively with EtOAc (to remove tripheylphosphine oxide) followed by 0 to 10% CH3OH/DCM to give 2-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-6-chloro-4-pyridinecarbonitrile (0.161 g, 0.516 mmol, 43.4% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.96 (s, 1H), 7.93 (s, 1H), 7.44-7.55 (m, 2H), 3.77 (s, 2H), 1.94 (br. s., 2H). LC-MS (ES+) m/z 312.29, 314.28 [M+H].

reactant | 2-{[3-(azidomethyl)-6-chloro-2-fluorophenyl]oxy}-6-chloro-4-pyridinecarbonitrile | 1.189 mmol, 0.402 g | N(=[N+]=[N-])CC=1C(=C(C(=CC1)Cl)OC1=NC(=CC(=C1)C#N)Cl)F | C13H6Cl2FN5O
reactant | triphenylphosphine | 1.783 mmol, 0.468 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 5.94 mmol, 0.107 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-6-chloro-4-pyridinecarbonitrile | 0.516 mmol, 0.161 g, 43.4% yield | NCC=1C(=C(C(=CC1)Cl)OC1=NC(=CC(=C1)C#N)Cl)F | C13H8Cl2FN3O
